US07012077B2
A mixture of 0.67 g (4 mmol) trans-3-(4-Methylamino-cyclohexyl)-prop-2-yn-1-ol, 1.24 ml (12 mmol) of 5-bromo-2-fluoropyridine and 1.76 ml (13.6 mmol) N-ethyldiisopropylamine was heated for 3 h at 80° C. and 24 h at 120° C. The mixture was diluted with 1 ml DMF, treated with a catalytic amount of NaI and heated for 2 days at 120° C. The reaction was cooled, evaporated and partitioned between aqueous saturated NaHCO3/Et2O (3×). The organic phases were washed with aqueous 10% NaCl, dried (NaSO4) and evaporated. Flash chromatography on silica gel (MeCl2/Et2O 97.5:2.5 to 92.5:7.5) gave 0.57 g (44%) of trans-3-{4-[(5-Bromo-pyridin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-yn-1-ol, MS: 323 (MH+, 1Br).

reactant | trans-3-(4-Methylamino-cyclohexyl)-prop-2-yn-1-ol | 4 mmol, 0.67 g | CN[C@@H]1CC[C@H](CC1)C#CCO | C10H17NO
reactant | 5-bromo-2-fluoropyridine | 12 mmol, 1.24 ml | BrC=1C=CC(=NC1)F | C5H3BrFN
reactant | N-ethyldiisopropylamine | 13.6 mmol, 1.76 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | NaI | [Na+].[I-]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | trans-3-{4-[(5-Bromo-pyridin-2-yl)-methyl-amino]-cyclohexyl}-prop-2-yn-1-ol | 0.57 g, 44% | BrC=1C=CC(=NC1)N([C@@H]1CC[C@H](CC1)C#CCO)C | C15H19BrN2O
